US05273986
An ice cold solution of 19.0 g of cycloheptyl methyl ketone in 100 ml of methyl alcohol was treated dropwise with 7 ml of bromine. After 5 min, the ice bath was removed and the reaction mixture was allowed to warm to room temperature. The reaction mixture was then diluted with 500 ml of water and extracted with ethyl ether (3×75 ml). The combined extracts were washed with saturated sodium bicarbonate, brine, dried (MgSO4) and condensed in vacuo to yield 29.9 g of bromomethyl cycloheptyl ketone as an oil.

reactant | cycloheptyl methyl ketone | 19.0 g | CC(=O)C1CCCCCC1 | C9H16O
reactant | bromine | 7 ml | BrBr | Br2
solvent | methyl alcohol | 100 ml | CO | CH4O
product | bromomethyl cycloheptyl ketone | 29.9 g | C1(CCCCCC1)C(=O)CBr | C9H15BrO
